US05994569
10.40 g (40.9 mmol) of (3S,5S)-9-(tetrahydro-pyran-2-yloxy)-non-1-en-7-yne-3,5-diol was dissolved in 30 ml of abs. DMF and treated successively with 18.9 g (6.8 eq.) of imidazole and 35.5 ml (3.4 eq.) of tert-butyl-chlorodiphenylsilane. After stirring for 20 h at 40°, the reaction mixture was poured onto crushed ice/EtOEt. Usual workup followed by flash chromatography (SiO2, hexane/AcOEt=96/6) gave 25.16 g of (5S,7S)-2-[5,7-bis-(tert-butyl-diphenyl-silanyloxy)-non-8-en-2-ynyloxy]-tetrahydropyran as colorless oil (1:1 epimeric mixture).

reactant | (3S,5S)-9-(tetrahydro-pyran-2-yloxy)-non-1-en-7-yne-3,5-diol | 40.9 mmol, 10.40 g | O1C(CCCC1)OCC#CC[C@@H](C[C@@H](C=C)O)O | C14H22O4
reactant | DMF | CN(C)C=O | C3H7NO
reactant | imidazole | 18.9 g, 6.8 eq. | N1C=NC=C1 | C3H4N2
reactant | tert-butyl-chlorodiphenylsilane | 35.5 ml, 3.4 eq. | C(C)(C)(C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C16H19ClSi
solvent | hexane AcOEt | CCCCCC.CCOC(=O)C
product | (5S,7S)-2-[5,7-bis-(tert-butyl-diphenyl-silanyloxy)-non-8-en-2-ynyloxy]-tetrahydropyran | 25.16 g | C(C)(C)(C)[Si](O[C@@H](CC#CCOC1OCCCC1)C[C@@H](C=C)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)(C1=CC=CC=C1)C1=CC=CC=C1 | C46H58O4Si2
